US08975264B2
Step 3: Preparation of 5-chloro-7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine (Chemical Formula 19)
5-Chloro-7-(3,4-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine (301 mg) is dissolved in CH2Cl2 (50 mL). N-Iodosuccinimide (NIS, 500 mg) is added to the reaction solution. The reaction mixture is stirred at room temperature for about 16 hours. The reaction solvent is removed by distillation under reduced pressure. The remainder is extracted with ethyl acetate and water. The extracted organic layer is washed with 1 M NaHCO3 aqueous solution and brine and dehydrated with anhydrous MgSO4. The dehydrated organic layer is distilled under reduced pressure and the target compound (301 mg) is yielded by column chromatography. 1H NMR (CDCl3, 300 MHz) δ 8.04 (m, 1H), 7.78 (m, 1H), 7.38 (q, J=8.7 Hz, 1H), 6.85 (s, 1H), 2.51 (s, 3H).

reactant | 5-Chloro-7-(3,4-difluorophenyl)-2-methylpyrazolo[1,5-a]pyrimidine | 301 mg | ClC1=NC=2N(C(=C1)C1=CC(=C(C=C1)F)F)N=C(C2)C | C13H8ClF2N3
reactant | N-Iodosuccinimide | 500 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-7-(3,4-difluorophenyl)-3-iodo-2-methylpyrazolo[1,5-a]pyrimidine | 301 mg | ClC1=NC=2N(C(=C1)C1=CC(=C(C=C1)F)F)N=C(C2I)C | C13H7ClF2IN3
